US06489476B1
A solution of N-[Bis(methylthio)methylene]glycine methyl ester (1 mmole) in anhydrous THF (2 mL) was added to a solution of t-BuOK (1.4 mmole) in anhydrous THF (10 mL) at −78° C. and the mixture was stirred for 30 min. Then a solution of ethyl isothiocyanate (1 mmole) in anhydrous THF (2 mL) was added and the reaction was stirred at −78° C. for 30 min and at room temperature for 2 h. The reaction was quenched with water. Extraction and chromatography gave 2-methylthio-5-(N-ethylamino)-4-methoxycarbonylthiazole as a yellow solid, which was subjected to Step B and C of Example 18 followed by Step C of Example 3 to give 2-methylthio-5-(N-ethylamino)-4-phosphonomethoxycarbonylthiazole (18.4) as a solid. Mp>200° C. (decomp). Anal. Calcd. for C8H13N2O5PS2+0.1 HBr: C: 29.99; H: 4.12; N: 8.74. Found: C: 29.71; H: 4.10; N: 8.60.

reactant | N-[Bis(methylthio)methylene]glycine methyl ester | 1 mmole | COC(CN=C(SC)SC)=O | C6H11NO2S2
reactant | t-BuOK | 1.4 mmole | CC(C)(C)[O-].[K+]
reactant | ethyl isothiocyanate | 1 mmole | C(C)N=C=S | C3H5NS
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-methylthio-5-(N-ethylamino)-4-methoxycarbonylthiazole | CSC=1SC(=C(N1)C(=O)OC)NCC | C8H12N2O2S2
